US04985582
1-(4-Bromophenyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2,2,2]octane was prepared from trimethyl 4-bromo-orthobenzoate and 2-hydroxymethyl-2-n-propyl-propan-1,3-dithiol.

reactant | trimethyl 4-bromo-orthobenzoate | COC(C1=CC=C(C=C1)Br)(OC)OC | C10H13BrO3
reactant | 2-hydroxymethyl-2-n-propyl-propan-1,3-dithiol | OCC(CS)(CS)CCC | C7H16OS2
product | 1-(4-Bromophenyl)-4-n-propyl-2-oxa-6,7-dithiabicyclo[2,2,2]octane | BrC1=CC=C(C=C1)C12OCC(CS1)(CS2)CCC | C14H17BrOS2
